US07071184B2
g. (2R,5S,6S)-5-Amino-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester
Triphenylphosphine (0.25 g, 0.952 mmol) was added to a solution of (2R,5S,6S)-5-azido-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester (0.193 g, 0.635 mmol) in THF (10 ml) and H2O (0.04 ml), then was heated to 45 degrees C. overnight. The reaction mixture was then diluted with toluene (100 ml×2) and was azeotroped in vacuo by rotary evaporation twice. The resulting oil was dissolved in MeOH and HCl in Et2O and the resulting salt was collected following filtration and was used in the next reaction without further purification (0.27 g, 90%).

reactant | Triphenylphosphine | 0.952 mmol, 0.25 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (2R,5S,6S)-5-azido-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester | 0.635 mmol, 0.193 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC[C@@H]([C@H](C1)O)N=[N+]=[N-])C | C15H20N4O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | H2O | 0.04 ml | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | (2R,5S,6S)-5-Amino-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC[C@@H]([C@H](C1)O)N)C | C15H22N2O3
